data/mechanism_extracts/ChemCommun/10.1039_D1CC03389A.json
{"doi": "10.1039_D1CC03389A", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electrochemical trifluoromethylation/cyclization of N-aryl methacrylamides with IMDN-SO2CF3 to synthesize isoquinoline-1,3-diones and oxindoles via cathodically generated CF3 radicals.", "mechanism_family": ["radical_cathodic", "paired_electrolysis"], "electrochemical_role": "Cathodic single-electron reduction of the IMDN-SO2CF3 reagent generates a CF3 radical (and releases 1-methyl-2-phenyl-1H-benzo[d]imidazole); the final cyclohexadienyl-type radical intermediate is then re-aromatized via anodic oxidation/deprotonation.", "key_intermediates": [{"name": "trifluoromethyl radical (•CF3)", "smiles": "[C](F)(F)F", "role": "reactive"}, {"name": "1-methyl-2-phenyl-1H-benzo[d]imidazole (byproduct from reagent reduction)", "smiles": "Cn1c(-c2ccccc2)nc2ccccc21", "role": "transient"}, {"name": "alkyl radical A (CF3-addition adduct on methacrylamide alkene)", "smiles": null, "role": "reactive"}, {"name": "cyclohexadienyl radical B (post-ipso cyclization onto arene)", "smiles": null, "role": "reactive"}], "electron_flow": "Cathode reduces IMDN-SO2CF3 by single-electron transfer to release •CF3, which adds to the methacrylamide alkene to give carbon radical A; A cyclizes intramolecularly onto the aryl/amide ring to give cyclohexadienyl radical B, which is then oxidized at the anode and deprotonated to restore aromaticity and afford the isoquinoline-1,3-dione or oxindole.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely inhibited; only trace 5a detected."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction completely inhibited; only trace 5a detected."}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Reaction suppressed; HRMS detected CF3–DPE adduct [M]+ 248.0812 (found 248.0807), confirming •CF3 formation from reagent 1."}, {"name": "CF3SO2Na (Langlois reagent control)", "smiles": "[Na+].[O-]S(=O)(=O)C(F)(F)F", "purpose": "other", "observation": "No product 5a formed, indicating cathodic generation of •CF3 from Langlois reagent does not occur under these conditions."}, {"name": "1-methyl-3-phenyl-benzimidazolium BF4 (1b, lacking SO2CF3)", "smiles": null, "purpose": "other", "observation": "5a obtained in 63%; demonstrates CF3 originates from the SO2CF3 portion of reagent 1 (the benzimidazolium is the redox-active carrier)."}, {"name": "N-methoxy methacrylamide substrate 3u", "smiles": null, "purpose": "intermediate_trap", "observation": "Desired cyclized 5u not formed; instead 5ua (34%) and 5ub (3%) observed, indicating that an anodic oxidation step is required to close the catalytic cycle/aromatize."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "stoichiometric_intermediate", "other"], "evidence_strength": "medium", "notes": "Mechanism is supported by radical trapping (TEMPO, BHT, DPE adduct by HRMS) and by the N-OMe substrate experiment indicating an anodic re-aromatization step is operative (paired electrolysis). No KIE, CV, or DFT studies reported. Control with CF3SO2Na vs IMDN-SO2CF3 confirms the benzimidazolium-sulfonyl reagent is uniquely suited for cathodic •CF3 generation under these mild conditions."}
